US07067537B2
Production of 3-[5-methyl-4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]benzenesulfonamide
By the reaction in the same manner as in Example 25-iii) using 2-bromo-1-(4-methylpyridin-3-yl)propan-1-one hydrobromate (520 mg) and 3-(aminosulfonyl)benzenecarbothioamide (361 mg), the title compound (376 mg) was obtained as colorless powder crystals.

reactant | 2-bromo-1-(4-methylpyridin-3-yl)propan-1-one | 520 mg | BrC(C(=O)C=1C=NC=CC1C)C | C9H10BrNO
reactant | 3-(aminosulfonyl)benzenecarbothioamide | 361 mg | NS(=O)(=O)C=1C=C(C=CC1)C(N)=S | C7H8N2O2S2
product | 3-[5-methyl-4-(4-methylpyridin-3-yl)-1,3-thiazol-2-yl]benzenesulfonamide | 376 mg | CC1=C(N=C(S1)C=1C=C(C=CC1)S(=O)(=O)N)C=1C=NC=CC1C | C16H15N3O2S2
